US08304446B2
3-{[3-Amino-4-(methyloxy)-1H-indazol-1-yl]methyl}benzonitrile
To a solution of ground potassium hydroxide (6.75 g, 120 mmol) in DMSO (300 mL) at room temperature under nitrogen was added 4-(methyloxy)-1H-indazol-3-amine (for a preparation see Intermediate 1) (7.85 g, 48.1 mmol), and this gave a deep red solution. After 5 minutes 3-(chloromethyl)benzonitrile (8.84 g, 58.3 mmol) was added in one portion. The reaction mixture was stirred for 20 minutes and then poured into water (500 mL), forming an emulsion. This was extracted using chloroform (3×500 mL). The combined organic solutions were washed with water (400 mL) and passed through a hydrophobic frit. The solvent was removed in vacuo, the residue was applied to a 340 g silica cartridge, and eluted with a gradient of 0-100% ethyl acetate in cyclohexane over 8 CV. This gave an orange solid which was treated with ethyl acetate (10 mL) and cyclohexane (90 mL). The solid was collected by filtration and washed with cyclohexane (50 mL). The solid was dried in vacuo to give the title compound (7.89 g, 59%) as a pale orange solid. LCMS (System A) RT=0.93 min, ES+ve m/z 279 (M+H)+.

reactant | potassium hydroxide | 120 mmol, 6.75 g | [OH-].[K+]
reactant | 4-(methyloxy)-1H-indazol-3-amine | COC1=C2C(=NNC2=CC=C1)N | C8H9N3O
reactant | 3-(chloromethyl)benzonitrile | 58.3 mmol, 8.84 g | ClCC=1C=C(C#N)C=CC1 | C8H6ClN
reactant | water | 500 mL | O | H2O
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | cyclohexane | 90 mL | C1CCCCC1 | C6H12
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 3-{[3-Amino-4-(methyloxy)-1H-indazol-1-yl]methyl}benzonitrile | 7.89 g, 59% | NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C#N)C=CC1 | C16H14N4O
